US04548888
Preparation of: 5-Chloro-6-hydrazino-3'-hydroxy-3-pyridinesulfonanilide
To 500 ml ethanol was added 5,6-dichloro-3'-hydroxy-3-pyridinesulfonanilide (10.4 g, 42 mmol) and 95 percent hydrazine (60 mmol). The reaction mixture was refluxed overnight. The completely reacted mixture was chilled, and the precipitate was filtered off and washed with ethanol. The filtrate was concentrated so as to obtain a second crop, yielding a total of 16.5 g. The solid was stirred in 250 ml of water to remove any salts. The product was filtered, washed with water, and dried under vacuum at 50° C. to give 10.61 g (80 percent) of pure product.

reactant | ethanol | 500 ml | C(C)O | C2H6O
reactant | 5,6-dichloro-3'-hydroxy-3-pyridinesulfonanilide | 42 mmol, 10.4 g | ClC=1C=C(C=NC1Cl)S(=O)(=O)NC1=CC(=CC=C1)O | C11H8Cl2N2O3S
reactant | hydrazine | 60 mmol | NN | H4N2
solvent | water | 250 ml | O | H2O
product | 5-Chloro-6-hydrazino-3'-hydroxy-3-pyridinesulfonanilide | 10.61 g, 80 percent | ClC=1C=C(C=NC1NN)S(=O)(=O)NC1=CC(=CC=C1)O | C11H11ClN4O3S
